US07625948B2
a) 4-[(4′-Trifluoromethylbiphenyl-2-carbonyl)amino]benzoic acid ethyl ester
4-Aminobenzoic acid ethyl ester (0.568 g) and triethylamine (0.570 g) were dissolved in methylene chloride (20 mL), and to this solution was dropwise added a solution of 4′-trifluoromethylbiphenyl-2-carboxylic acid chloride, which is prepared from 4′-trifluoromethylbiphenyl-2-carboxylic acid (1.00 g) in a similar manner to Example 1d), in methylene chloride under ice-cooling. The solution was stirred at room temperature for 2 hours, followed by addition of methylene chloride (100 mL). The reaction mixture was washed with 2N hydrochloric acid and saturated brine, dried over sodium sulfate and concentrated to give the title compound (1.43 g).

reactant | 4-Aminobenzoic acid ethyl ester | 0.568 g | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | triethylamine | 0.570 g | C(C)N(CC)CC | C6H15N
reactant | 4′-trifluoromethylbiphenyl-2-carboxylic acid chloride | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)Cl)(F)F | C14H8ClF3O
reactant | 4′-trifluoromethylbiphenyl-2-carboxylic acid | 1.00 g | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)(F)F | C14H9F3O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-[(4′-Trifluoromethylbiphenyl-2-carbonyl)amino]benzoic acid ethyl ester | 1.43 g | C(C)OC(C1=CC=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C23H18F3NO3
